US07173031B2
B) 3-(4-(4-Amino-2-fluorophenoxy)-1H-pyrrolo[2,3-b]pyridin-3-yl)propan-1-ol
A mixture of tert-butyl 4-(2-fluoro-4-nitrophenoxy)-3-(3-hydroxyprop-1-ynyl)-1H-pyrrolo[2,3-b]pyridine-1-carboxylate (50 mg, 0.15 mmol) and 10% Pd/C (containing 50% H2O, 120 mg) in THF (10 mL) and MeOH (2 mL) was hydrogenated at 1 atm for 5 h. The mixture was diluted with MeOH and filtered through a pad of Celite®. The crude mixture was purified by preparative HPLC to afford the desired product (6 mg, 13% yield) as a white solid. LC/MS ESI+) m/z 302 (M+H)+.

reactant | tert-butyl 4-(2-fluoro-4-nitrophenoxy)-3-(3-hydroxyprop-1-ynyl)-1H-pyrrolo[2,3-b]pyridine-1-carboxylate | 0.15 mmol, 50 mg | FC1=C(OC2=C3C(=NC=C2)N(C=C3C#CCO)C(=O)OC(C)(C)C)C=CC(=C1)[N+](=O)[O-] | C21H18FN3O6
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | MeOH | 2 mL | CO | CH4O
catalyst | Pd/C | 120 mg | [Pd] | Pd
product | 3-(4-(4-Amino-2-fluorophenoxy)-1H-pyrrolo[2,3-b]pyridin-3-yl)propan-1-ol | 6 mg, 13% yield | NC1=CC(=C(OC2=C3C(=NC=C2)NC=C3CCCO)C=C1)F | C16H16FN3O2
